US07119086B2
A) Ethyl 2-[2-[(tert-butoxycarbonyl)amino]-5-chloro-4-methylphenyl]-2-oxoacetate
A solution of 5.9 g of tert-butyl 4-chloro-3-methylphenylcarbamate in 60 ml of ether is cooled to −50° C., under a nitrogen atmosphere, 42 ml of a solution of tert-butyllithium in pentane are added dropwise, and the mixture is stirred for 2 hours while allowing the temperature to rise to −20° C. The reaction mixture is cooled to −70° C., a solution of 4.5 g of diethyl oxalate in 30 ml of THF is added dropwise and the resulting mixture is stirred for 1 hour while allowing the temperature to return to 20° C. The reaction mixture is poured into saturated NH4Cl solution, the phases are separated by settling, the aqueous phase is extracted with EtOAc, the combined organic phases are washed with 1N HCl and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica gel, eluting with an iso ether/pentane mixture (50/50; v/v). 8 g of the expected product are obtained in the form of an oil which crystallizes, m.p.=111° C.

reactant | tert-butyl 4-chloro-3-methylphenylcarbamate | 5.9 g | ClC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)C | C12H16ClNO2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | diethyl oxalate | 4.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Ethyl 2-[2-[(tert-butoxycarbonyl)amino]-5-chloro-4-methylphenyl]-2-oxoacetate | 8 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C(=C1)C)Cl)C(C(=O)OCC)=O | C16H20ClNO5
